US07592345B2
a) step 1: 2-(3,4-Dichloro-phenyl)-4,4-dimethoxy-2-methyl-butyric acid methyl ester
A mixture of 35 g (150 mmol) 2-(3,4-dichloro-phenyl)-propionic acid methyl ester (Journal of Medicinal Chemistry (2004), 47(23), 5753-5765), 31.7 g (188 mmol) bromoacetaldehyde dimethyl acetal (commercially available and 6.6 g (165 mmol) NaH (55%) in 100 mL DMF was stirred at room temperature and afterwards evaporated to dryness. Ice water and ethyl acetate was added and the organic fraction was washed with sat. NaCl aq., dried with Na2SO4 and evaporated. The residue was purified by column chromatography on silica eluting with a mixture of ethyl acetate and hexane. The product containing fractions were evaporated to yield 29.6 g (61%) of the title compound as yellow liquid.

reactant | 2-(3,4-dichloro-phenyl)-propionic acid methyl ester | 150 mmol, 35 g | COC(C(C)C1=CC(=C(C=C1)Cl)Cl)=O | C10H10Cl2O2
reactant | bromoacetaldehyde dimethyl acetal | 188 mmol, 31.7 g | COC(CBr)OC | C4H9BrO2
reactant | NaH | 165 mmol, 6.6 g | [H-].[Na+]
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 2-(3,4-Dichloro-phenyl)-4,4-dimethoxy-2-methyl-butyric acid methyl ester | 29.6 g, 61% | COC(C(CC(OC)OC)(C)C1=CC(=C(C=C1)Cl)Cl)=O | C14H18Cl2O4
